* Z:\home\marco\projects\circuitos2-2025\ltspice_circuit.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 SINE(0 224 60) AC 224 0
R1 N002 N001 0.24
L1 N002 N003 0.029
L2 N003 N004 0.0981
R2 N004 0 0.1022
R3 N006 0 0.7
L3 N003 N006 0.6
L4 N003 N005 0.0783
R4 N005 0 0.0797
.tran 1.67
* .ac lin 1 60 60
.backanno
.end
